US06002008
6-Amino-4-[(3-trifluoromethylphenyl)amino]-3-quinolinecarbonitrile
A slurry of 6.00 g(16.8 mmol) of 6-nitro-4-[(3-trifluoromethylphenyl)amino]-3-quinolinecarbonitrile and 18.9 g (83.3 mmol) of SnCl2 dihydrate in 240 mL of ethanol was refluxed under N2 for 1 h. After cooling to 25° C., the reaction was diluted with ice water, neutralized with sodium bicarbonate and stirred for 2 h. The product was extracted with chloroform, treated with Darco, dried(magnesium sulfate) and evaporated. The residue was filtered through silica gel(10% methanol in chloroform), evaporated and dried in vacuo(40° C.) to give 4.87 g of brown solid: mass spectrum (electrospray, m/e): M+H 329.

reactant | 6-nitro-4-[(3-trifluoromethylphenyl)amino]-3-quinolinecarbonitrile | 16.8 mmol, 6.00 g | [N+](=O)([O-])C=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)C(F)(F)F | C17H9F3N4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 240 mL | C(C)O | C2H6O
product | 6-Amino-4-[(3-trifluoromethylphenyl)amino]-3-quinolinecarbonitrile | 4.87 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)C(F)(F)F | C17H11F3N4
